US07214802B2
To a solution of 2-bromo-1-pyridin-3-yl-ethanone hydrobromide (Barlin, G. B. et al. Australian J. Chem, 1989, 1735) (500 mg, 1.78 mmol) in 2 ml of EtOH was added 3-amino-4-methyl-benzoic acid methyl ester (Lancaster; 294 mg, 1.78 mmol) and NaHCO3 (750 mg, 8.9 mmol), and the mixture was stirred for 2 h. The mixture was then filtered and washded with MeOH, then the filtrated was concentrated to a small volume and dissolved in EtOAc. The EtOAc slurry was washed with water and brine, and the washes were extracted once more with EtOAc. The combined organic portions were dried with Na2SO4, filtered, concentrated, and chromatographed (0–5% MeOH in dichloromethane) to provide 84.5 mg of 4-methyl-3-(2-oxo-2-pyridin-3-yl-ethylamino)-benzoic acid methyl ester.

reactant | 2-bromo-1-pyridin-3-yl-ethanone hydrobromide | 1.78 mmol, 500 mg | Br.BrCC(=O)C=1C=NC=CC1
reactant | 3-amino-4-methyl-benzoic acid methyl ester | 1.78 mmol, 294 mg | COC(C1=CC(=C(C=C1)C)N)=O | C9H11NO2
reactant | NaHCO3 | 8.9 mmol, 750 mg | C(=O)(O)[O-].[Na+]
solvent | EtOH | 2 ml | CCO | C2H6O
product | 4-methyl-3-(2-oxo-2-pyridin-3-yl-ethylamino)-benzoic acid methyl ester | 84.5 mg | COC(C1=CC(=C(C=C1)C)NCC(C=1C=NC=CC1)=O)=O | C16H16N2O3
